US05852011
3-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]propionyl chloride
3-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]propionic acid (0.24 g; 0.83 mmol) was dissolved in 5 ml of 1,2-dichloroethane, followed by the dropwise addition of 0.22 ml (2.58 mmol; 3.1 equivalents) of oxalyl chloride (with ice-cooling from an intermediary time point due to violent exotherm). After completion of the dropwise addition, the temperature of the resultant mixture was allowed to rise again to room temperature, at which the mixture was stirred for 3 hours and then allowed to stand overnight. The mixture was thereafter concentrated under reduced pressure, whereby the title compound was obtained in a crude form. The crude compound was provided for use in the next reaction without purification.

reactant | 3-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]propionic acid | 0.83 mmol, 0.24 g | ClCCN(CCCl)C1=CC=C(C=C1)CCC(=O)O | C13H17Cl2NO2
reactant | oxalyl chloride | 2.58 mmol, 0.22 ml, 3.1 equivalents | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 3-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]propionyl chloride | ClCCN(CCCl)C1=CC=C(C=C1)CCC(=O)Cl | C13H16Cl3NO
